US07834035B2
3-[3-(4-Methoxy-phenyl)-[1,2,4]oxadiazol-5-yl]-piperidine-1-carboxylic acid tert-butyl ester (0.39 g, 1.08 mmol) was dissolved in 2 ml of 4N HCl (dioxane solution). The resulting reaction mixture was stirred at R.T. for 1 h and concentrated to afford 0.320 g (100%) of 3-[3-(4-Methoxy-phenyl)-[1,2,4]oxadiazol-5-yl]-piperidine hydrochloride as a brown solid.

reactant | 3-[3-(4-Methoxy-phenyl)-[1,2,4]oxadiazol-5-yl]-piperidine-1-carboxylic acid tert-butyl ester | 1.08 mmol, 0.39 g | C(C)(C)(C)OC(=O)N1CC(CCC1)C1=NC(=NO1)C1=CC=C(C=C1)OC | C19H25N3O4
reactant | HCl | 4N, 2 ml | Cl | ClH
product | 3-[3-(4-Methoxy-phenyl)-[1,2,4]oxadiazol-5-yl]-piperidine hydrochloride | 0.320 g, 100% | Cl.COC1=CC=C(C=C1)C1=NOC(=N1)C1CNCCC1 | InChI=1S/C14H17N3O2.ClH/c1-18-12-6-4-10(5-7-12)13-16-14(19-17-13)11-3-2-8-15-9-11;/h4-7,11,15H,2-3,8-9H2,1H3;1H
